US04898874
5-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole
A mixture of 15.4 g (0.069 mole) of 5-ethyl-3-phenyl-2,1-benzisoxazole, 12.4 g (0.0697 mole) of N-bromosuccinimide and 0.3 g of dibenzoyl peroxide in 300 ml of carbon tetrachloride was heated at reflux under floodlight illumination and an argon atmosphere for one hr and then filtered while still hot. The filtrate was concentrated under reduced pressure to give 22.0 g of a semi-solid residue (NMR indicated 80% product). A sample of this semi-solid was triturated with 3 ml of methylene chloride and filtered. The solid filter cake was recrystallized from ethyl ether to give yellow solid, m.p. 118°-119° C. (with decomposition).

reactant | 5-ethyl-3-phenyl-2,1-benzisoxazole | 0.069 mole, 15.4 g | C(C)C=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C15H13NO
reactant | N-bromosuccinimide | 0.0697 mole, 12.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 5-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole | 22.0 g | BrC(C)C=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C15H12BrNO
